US07816395B2
b) (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoic acid hydrochloride
A solution of 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoate (0.33 g, 0.94 mmol) in CH2Cl2 (2 mL) was treated with TFA (1 mL) for 1.5 h and the reaction was evaporated thoroughly. The residue was treated with 4N HCl in dioxane (4 mL) and then concentrated (this step was done twice) and the crude product was used directly in the next step.

reactant | 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoate | 0.94 mmol, 0.33 g | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNC(C)C | C18H26ClN3O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoic acid hydrochloride | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)O)CNC(C)C | InChI=1S/C14H18ClN3O2.ClH/c1-9(2)17-8-12(6-14(19)20)18-11-4-3-10(7-16)13(15)5-11;/h3-5,9,12,17-18H,6,8H2,1-2H3,(H,19,20);1H/t12-;/m0./s1
